US07863271B2
To a solution of di (1H-imidazole-1-yl)methanamine (1.56 g, 9.67 mmol) in THF (30 mL) was added methyl 2-amino-3-hydroxy-5-methylbenzoate (1.40 g, 7.73 mmol) at room temperature and the resulting reaction mixture was heated at reflux for 6 h. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (100 mL), treated with saturated aqueous ammonium chloride (25 mL), and then extracted with CH2Cl2 (2×100 mL). The combined organic phase was washed with brine (2×100 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to afford a yellow solid. The solid was triturated from CH3OH to afford methyl 2-amino-6-methylbenzoxazole-4-carboxylate (0.717 g, 45%). 1H NMR and MS consistent.

reactant | di (1H-imidazole-1-yl)methanamine | 9.67 mmol, 1.56 g | N1(C=NC=C1)C(N)N1C=NC=C1 | C7H9N5
reactant | methyl 2-amino-3-hydroxy-5-methylbenzoate | 7.73 mmol, 1.40 g | NC1=C(C(=O)OC)C=C(C=C1O)C | C9H11NO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 2-amino-6-methylbenzoxazole-4-carboxylate | 0.717 g, 45% | NC=1OC=2C(N1)=C(C=C(C2)C)C(=O)OC | C10H10N2O3
